US04596809
3,9-DIHYDRO-2-(IODOMETHYL)-9-PHENYL-FURO(2,3-b)-1,8-NAPHTHYRIDIN-4(2H)-ONE
To a solution of 4.0 g. (0.014 moles) of 4-hydroxy-1-phenyl-3-(2-propenyl)-1,8-naphthyridin-2(1H)-one in 380 ml. of tetrahydrofuran, there is added, dropwise, with stirring at 3°-5° C., 4.0 g. of 70% perchloric acid in 11.5 ml. of water, followed by the slow addition of 10.2 g. of N-iodo-succinimide over a period of 45 minutes. The reaction is stirred at room temperature for three hours, treated with a saturated solution of sodium sulfite, and extracted with 2×250 ml. of ether. The organic layer is dried over magnesium sulfate, filtered and concentrated to a solid residue. The crude products are separated on a 60G silica gel column with methanol:chloroform (5:95). The desired fraction is recrystallized from ethyl acetate to yield the title compound, m.p. 178°-180° C.

reactant | 4-hydroxy-1-phenyl-3-(2-propenyl)-1,8-naphthyridin-2(1H)-one | 0.014 moles | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)CC=C | C17H14N2O2
reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | N-iodo-succinimide | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,9-DIHYDRO-2-(IODOMETHYL)-9-PHENYL-FURO(2,3-b)-1,8-NAPHTHYRIDIN-4(2H)-ONE | ICC1CC2=C(N(C3=NC=CC=C3C2=O)C2=CC=CC=C2)O1 | C17H13IN2O2
